US07598412B2
4-Benzyl-N-[1-(3,4-dimethoxy-phenyl)-cyclopentylmethyl]-benzamide
4-Benzyl-benzoic acid (21.2 mg, 0.100 mmol) and C-[1-(3,4-Dimethoxy-phenyl)-cyclopentyl]-methylamine (23.5 g, 0.100 mmol) were dissolved in acetonitrile (1 mL) containing triethylamine (41.8 μL, 0.300 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (38.0 mg, 0.100 mmol) was added and the solution was allowed to stir for 16 hours. The mixture was then purified by reverse phase preparative liquid chromatography to yield the pure product (24.1 mg, 0.0561 mmol, 56.1%) ESI-MS m/z calc. 429.2, found 430.4 (M+1)+. Retention time of 3.75 minutes.

reactant | 4-Benzyl-benzoic acid | 0.100 mmol, 21.2 mg | C(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C14H12O2
reactant | C-[1-(3,4-Dimethoxy-phenyl)-cyclopentyl]-methylamine | 0.100 mmol, 23.5 g | COC=1C=C(C=CC1OC)C1(CCCC1)CN | C14H21NO2
reactant | triethylamine | 0.300 mmol, 41.8 μL | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.100 mmol, 38.0 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 4-Benzyl-N-[1-(3,4-dimethoxy-phenyl)-cyclopentylmethyl]-benzamide | 0.0561 mmol, 24.1 mg, 56.1% | C(C1=CC=CC=C1)C1=CC=C(C(=O)NCC2(CCCC2)C2=CC(=C(C=C2)OC)OC)C=C1 | C28H31NO3
